US04032525
136 G. of 4-chloro-2-(3-trifluoromethyl-phenoxy)-benzoic acid are boiled at reflux for 2.5 hours in a mixture of 1000 ml. of methanol and 100 ml. of concentrated sulfuric acid. After concentration of the mixture under vacuum, the residue is poured on to ice and extracted with benzene. The benzene extracts are washed with water, aqueous sodium bicarbonate solution and again with water. After evaporation of the benzene, there is obtained 4-chloro-2-(3-trifluoromethyl-phenoxy)-benzoic acid methyl ester in the form of an oil.

reactant | 4-chloro-2-(3-trifluoromethyl-phenoxy)-benzoic acid | ClC1=CC(=C(C(=O)O)C=C1)OC1=CC(=CC=C1)C(F)(F)F | C14H8ClF3O3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | methanol | CO | CH4O
product | 4-chloro-2-(3-trifluoromethyl-phenoxy)-benzoic acid methyl ester | COC(C1=C(C=C(C=C1)Cl)OC1=CC(=CC=C1)C(F)(F)F)=O | C15H10ClF3O3
